US08440662B2
Step 2: 5-[7-(3-Methanesulfonyl-phenyl)-4-morpholin-4-yl-quinazolin-2-yl]-pyridin-2-ylamine
To a 50 mL round bottom flask, 2-chloro-7-(3-methanesulfonyl-phenyl)-4-morpholin-4-yl-quinazoline (0.15 g, 0.00037 mol), 2-aminopyridine-5-boronic acid pinacol ester (0.122 g, 0.0005568 mol), cesium carbonate (0.243 g, 0.00074 mol), DMF (4 mL) and water (2 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (0.013 g, 0.000018 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 5% MeOH in chloroform) to yield the title compound (125 mg, 74%). LC-MS (ESI): Calculated mass: 461.2; Observed mass: 462.1 [M+H]+ (RT: 0.17 min).

reactant | 2-chloro-7-(3-methanesulfonyl-phenyl)-4-morpholin-4-yl-quinazoline | 0.00037 mol, 0.15 g | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC(=CC=C1)S(=O)(=O)C | C19H18ClN3O3S
reactant | 2-aminopyridine-5-boronic acid pinacol ester | 0.0005568 mol, 0.122 g | NC1=NC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C11H17BN2O2
reactant | cesium carbonate | 0.00074 mol, 0.243 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.000018 mol, 0.013 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2 mL | O | H2O
product | 5-[7-(3-Methanesulfonyl-phenyl)-4-morpholin-4-yl-quinazolin-2-yl]-pyridin-2-ylamine | 125 mg, 74% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C(=NC(=NC2=C1)C=1C=CC(=NC1)N)N1CCOCC1 | C24H23N5O3S
